US04477369
4-Ethyl-4'-[4'-(trans-4-ethylcyclohexyl)cyclohexen-1-yl]biphenyl (11 g, 0.030 mol) was dissolved in xylene (300 ml), and chloranil (16 g, 0.065 mol) was added, followed by reflux for 20 hours. After cooling, toluene (500 ml) was added, followed by washing once with 6N hydrochloric acid and three times with 2N NaOH, washing with saturated NaCl aqueous solution till the washing liquid became neutral, distilling off the solvent under reduced pressure, and recrystallizing from toluene to obtain an objective product, 4-ethyl-4'-(trans-4-ethylcyclohexyl)terphenyl (yield: 5 g) having a C-Sm point of 147.0° C. a Sm-N point of 260° C. and a N-I point of 300° C. or higher.

reactant | 4-Ethyl-4'-[4'-(trans-4-ethylcyclohexyl)cyclohexen-1-yl]biphenyl | 0.030 mol, 11 g | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CCC(CC1)[C@@H]1CC[C@H](CC1)CC | C28H36
reactant | chloranil | 0.065 mol, 16 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-ethyl-4'-(trans-4-ethylcyclohexyl)terphenyl | yield: 5 g | C(C)C1=CC=C(C=C1)C=1C(=CC(=CC1)[C@@H]1CC[C@H](CC1)CC)C1=CC=CC=C1 | C28H32
